US04772600
N,N-Dimethyl-2-(4-nitrophenyl)-3H-imidazo[4,5-b]pyridine-3-acetamide
A suspension of 2-(4-nitrophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid (3.0 g, 0.0101 mole), 1,1'-carbonyldiimidazole (1.6 g, 0.0101 mole), and dry dimethylformamide (10 ml) in tetrahydrofuran (100 ml) was stirred at room temperature for two hours with nitrogen bubbling through it. A solution of dimethylamine in tetrahydrofuran (26.4 ml of a 2.29M solution, 0.0606 mole) was added. The resulting solution was heated at 45° C. overnight under nitrogen. The solvents were evaporated under reduced pressure. The residue was triturated in water (300 ml), and the resulting solid was collected by filtration, rinsed with water, 5% potassium hydroxide solution and again with water. The solid was dissolved in hot isopropyl alcohol, filtered, and allowed to cool to room temperature. A solid precipitated which was collected by filtration and dried under high vacuum to give 1.26 g (38%) of title compound, mp 204°-207° C.

reactant | 2-(4-nitrophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.0101 mole, 3.0 g | [N+](=O)([O-])C1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C14H10N4O4
reactant | 1,1'-carbonyldiimidazole | 0.0101 mole, 1.6 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
reactant | dimethylamine | CNC | C2H7N
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | N,N-Dimethyl-2-(4-nitrophenyl)-3H-imidazo[4,5-b]pyridine-3-acetamide | 1.26 g, 38% | CN(C(CN1C(=NC=2C1=NC=CC2)C2=CC=C(C=C2)[N+](=O)[O-])=O)C | C16H15N5O3
